US04841047
4-(4-Fluorobenzyl)-2-(N-carbethoxy-piperidin-4-yl)-1-(2H)-phthalazinone
366.5 g (1.043 mol) 4-(4-Fluorobenzyl)-2-(N-methyl-piperidin-4-yl)-1-(2H)-phtalazinone are dissolved in 1100 ml toluene which had been dried over K2CO3. Any water present in azeotropically distilled off using a water separator. 390 g (3.59 mol) ethylchloroformate are added dropwise over 11/2 hours and the mixture stirred for 4 hours under reflux. A precipitate separated out and is suction filtered. The filtrate is evaporated on a rotary evaporator, the residue is taken up in 400 ml ether, stirred briefly and suction filtered. After washing with ether, the substance is dried in a drying cupboard. (M.p. 151°-152° C.).

reactant | 4-(4-Fluorobenzyl)-2-(N-methyl-piperidin-4-yl)-1-(2H)-phtalazinone | 1.043 mol, 366.5 g | FC1=CC=C(CC2=NN(C(C3=CC=CC=C23)=O)C2CCN(CC2)C)C=C1 | C21H22FN3O
reactant | ethylchloroformate | 3.59 mol, 390 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | toluene | 1100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Fluorobenzyl)-2-(N-carbethoxy-piperidin-4-yl)-1-(2H)-phthalazinone | FC1=CC=C(CC2=NN(C(C3=CC=CC=C23)=O)C2CCN(CC2)C(=O)OCC)C=C1 | C23H24FN3O3
